US04540692
A solution of methyl 4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxylate 1,1-dioxide (2.4 g) and 2-amino-4-methyl-2,4,6-cycloheptatrien-1-one (1.3 g) in xylene (50 ml) is refluxed for 7 hours. The reaction mixture is then allowed to stand at room temperature overnight. The resulting crystals (1.0 g) are collected by filtration and recrystallized from dioxane to give 4-hydroxy-2-methyl-N-(4-methyl-1-oxo-2,4,6-cycloheptatrien-2-yl)-2H-1,2-benzothiazine-3-carboxamide 1,1-dioxide (0.8 g), m.p. 235°-242° C.

reactant | methyl 4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxylate 1,1-dioxide | 2.4 g | OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)OC | C11H11NO5S
reactant | 2-amino-4-methyl-2,4,6-cycloheptatrien-1-one | 1.3 g | NC=1C(C=CC=C(C1)C)=O | C8H9NO
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-hydroxy-2-methyl-N-(4-methyl-1-oxo-2,4,6-cycloheptatrien-2-yl)-2H-1,2-benzothiazine-3-carboxamide 1,1-dioxide | 0.8 g | OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)NC=2C(C=CC=C(C2)C)=O | C18H16N2O5S
